US07056917B2
(B) Ethyl 3-(dimethylamino)-2-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-2-propenoate
Dimethylformamide dimethylacetal (13 ml, 97.3 mmol) was dissolved in ethyl 2-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]acetate (24 g, 88.4 mmol) and heated to 100° C. for 3 hours with stirring. The reaction solution was purified by silica gel column chromatography (hexane:ethyl acetate=3:1→1:1→1:3) to obtain 14 g (48%) of yellow crystals.

reactant | Dimethylformamide dimethylacetal | 97.3 mmol, 13 ml | COC(N(C)C)OC | C5H13NO2
reactant | ethyl 2-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]acetate | 88.4 mmol, 24 g | COC1=CC=C(CN2N=C(N=N2)CC(=O)OCC)C=C1 | C13H16N4O3
product | Ethyl 3-(dimethylamino)-2-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-2-propenoate | 14 g, 48% | CN(C=C(C(=O)OCC)C=1N=NN(N1)CC1=CC=C(C=C1)OC)C | C16H21N5O3
